US04378369
2,5-anhydro-6-O-benzoyl-D-mannitol
7.9 g. (6.5 ml., 56.3 mmol.) of benzoyl chloride and 5.7 g. (8.02 ml., 56.3 mmol.) of triethylamine were added to a suspension of 8.4 g. (51.2 mmol.) of 2,5-anhydro-D-mannitol in 100 ml. of tetrahydrofuran. The reaction mixture was refluxed for 5 hrs., allowed to cool to room temperature and evaporated at room temperature and 200 ml. of chloroform is added to the residue. The solids were removed by filtration and washed with chloroform and the chloroform filtrate and washings were combined and evaporated at reduced pressure. The residue was filtered through 200 ml. of silica gel utilizing chloroform and 5% methanol/chloroform to elute the dibenzoate and 5% methanol/chloroform and 10% methanol/chloroform to elute the monobenzoate. The fractions containing the monobenzoate (as indicated by thin layer chromatography) were combined and evaporated at reduced pressure to an uncrystallizable, very thick oil. The oil was distilled in a Kugelrohr apparatus at 135°-145° C. and 40μ. to obtain a thick, pale yellow oil (2.50 g.) [α]D =+46.191° (methanol).

reactant | benzoyl chloride | 56.3 mmol, 6.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 56.3 mmol, 8.02 ml | C(C)N(CC)CC | C6H15N
reactant | 2,5-anhydro-D-mannitol | 51.2 mmol | C([C@@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)O | C6H12O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,5-anhydro-6-O-benzoyl-D-mannitol | C(C1=CC=CC=C1)(=O)OC[C@@H]1[C@H]([C@@H]([C@@H](CO)O1)O)O | C13H16O6
